US07939661B2
Step 2: (3-Fluoro-pyridin-4-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(3-fluoro-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.16 g, 0.54 mmol) in dioxane (10 mL) and 4 M HCl in dioxane (10 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 196.3 [M+H]+.

reactant | 4-(3-fluoro-pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.54 mmol, 0.16 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=NC=C1)F | C15H22FN3O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (3-Fluoro-pyridin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.FC=1C=NC=CC1NC1CCNCC1 | InChI=1S/C10H14FN3.2ClH/c11-9-7-13-6-3-10(9)14-8-1-4-12-5-2-8;;/h3,6-8,12H,1-2,4-5H2,(H,13,14);2*1H
